US04547581
9-Chloro-7-(2-chlorophenyl)-4,5,6,7-tetrahydro-2-methyl-1H-pyrimido[5,4-d][2]benzazepine, hydrochloride salt
A solution of 3.8 g (10.7 mmole) of 9-chloro-7-(2-chlorophenyl)-2-methyl-5H-pyrimido[5,4-d][2]benzazepine in 50 ml of acetic acid was hydrogenated at room temperature and atmospheric pressure in the presence of 0.5 g of prehydrogenated platinum oxide. After 3 hours about 500 ml (ca 2 equivalent) of hydrogen was absorbed and the catalyst was separated by filtration. The filtrate was concentrated at reduced pressure to dryness. The residue was dissolved in methylene chloride, washed with an excess of dilute ice cold sodium hydroxide, and dried over anhydrous sodium sulfate. The methylene chloride solution was diluted with an excess of methanolic hydrogen chloride and concentrated at reduced pressure. The residue was triturated with isopropanol and the crude product was collected by filtration. Recrystallization from methanol gave the pure product, m.p. 275°-276° C.

reactant | 9-chloro-7-(2-chlorophenyl)-2-methyl-5H-pyrimido[5,4-d][2]benzazepine | 10.7 mmole, 3.8 g | ClC1=CC2=C(C3=C(CN=C2C2=C(C=CC=C2)Cl)C=NC(=N3)C)C=C1 | C19H13Cl2N3
reactant | hydrogen | about 500 ml, ca 2 equivalent | [H][H] | H2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.5 g | [Pt]=O
product | 9-Chloro-7-(2-chlorophenyl)-4,5,6,7-tetrahydro-2-methyl-1H-pyrimido[5,4-d][2]benzazepine, hydrochloride salt | Cl.ClC1=CC2=C(C3=C(CNC2C2=C(C=CC=C2)Cl)CN=C(N3)C)C=C1 | InChI=1S/C19H17Cl2N3.ClH/c1-11-22-9-12-10-23-19(15-4-2-3-5-17(15)21)16-8-13(20)6-7-14(16)18(12)24-11;/h2-8,19,23H,9-10H2,1H3,(H,22,24);1H
